US05179211
p-Toluidine was reacted with methyl isopropyl ketone in the same way as in Example 3. 2,3,3,5-Tetramethyl-3-H-indole was formed in a yield of 87% of the theoretical yield.

reactant | p-Toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | methyl isopropyl ketone | C(C)(C)C(=O)C | C5H10O
product | 2,3,3,5-Tetramethyl-3-H-indole | yield of 87% | CC1=NC2=CC=C(C=C2C1(C)C)C | C12H15N
